US04629781
Preparation of deglucoteicoplanin from teicoplanin complex
2.65 g of teicoplanin complex (i.e. the antibiotic complex containing teichomycin factors A1, A2 and A3, as obtained by fermentation of strain ATCC 31121 according to U.S. Pat. No. 4,239,751), is dissolved with stirring into 180 ml of acetic acid. To this solution 20 ml of 37% (w/v) HCl are added and the mixture is heated at 80° C. for one hour (the reaction time has been determined according to previous experiments where the reaction was followed by HPLC). After cooling to room temperature, the reaction mixture is poured into 1 liter of ice-cooled ethyl ether. The obtained precipitate is collected by filtration, washed with ethyl ether and then dissolved in 60 ml of a mixture of methanol and 0.1 N HCl 3:2 (v/v). To the resulting solution, 600 ml of a mixture of water/ethyl acetate/n-butanol 4:5:1 (v/v/v) are added and the pH is adjusted to 8.5 by adding 1 N NaOH. The organic layer is then discarded and the aqueous phase chromatographed through a column prepared with 270 g of silanized silica gel as described in the last part of Example 4. Yield 750 g of substantially pure deglucoteicoplanin.

reactant | teichomycin | CCCCCCCCCC(=O)N[C@@H]1[C@H]([C@@H]([C@H](O[C@H]1OC2=C3C=C4C=C2OC5=C(C=C(C=C5)[C@H]([C@H]6C(=O)N[C@H](C7=CC(=CC(=C7C8=C(C=CC(=C8)[C@H](C(=O)N6)NC(=O)[C@@H]4NC(=O)[C@@H]9C1=CC(=CC(=C1)O)OC1=C(C=CC(=C1)[C@H](C(=O)N[C@H](CC1=CC(=C(O3)C=C1)Cl)C(=O)N9)N)O)O)O[C@@H]1[C@H]([C@H]([C@@H]([C@H](O1)CO)O)O)O)O)C(=O)O)O[C@H]1[C@@H]([C@H]([C@@H]([C@H](O1)CO)O)O)NC(=O)C)Cl)CO)O)O | C88H97Cl2N9O33
reactant | acetic acid | 180 ml | C(C)(=O)O | C2H4O2
reactant | HCl | Cl | ClH
solvent | ethyl ether | C(C)OCC | C4H10O
product | teicoplanin | CC(=O)N[C@H]1[C@H]([C@@H]([C@@H](O[C@H]1OC2=C3C=C4C=C2OC=5C=CC(=CC5Cl)[C@H]([C@H]6C(=O)N[C@@H](C=7C=C(C=C(C7C=8C=C(C=CC8O)[C@H](C(=O)N6)NC(=O)[C@@H]4NC(=O)[C@@H]9C1=CC(=CC(=C1)OC=1C=C(C=CC1O)[C@H](C(=O)N[C@H](CC=1C=CC(=C(C1)Cl)O3)C(=O)N9)N)O)O[C@@H]1[C@H]([C@@H]([C@@H]([C@H](O1)CO)O)O)O)O)C(=O)O)O[C@H]1[C@H]([C@H]([C@@H]([C@@H](O1)CO)O)O)NC(=O)C)CO)O)O | C80H81Cl2N9O33
